US06277862B1
(S)-N-(α-ethylbenzyl)-3-(3-phenylureido)-2-phenylquinoline-4-carboxamide
1.5 g (3.9 mmol) of (S)-N-(α-ethylbenzyl)-3-amino-2-phenylquinoline-4-carboxamide (compound of Description 2) were dissolved in 30 ml of dry CH2Cl2, 10 ml of dry THF and 10 ml of dry CH3CN. 0.47 ml (4.3 mmol) of phenylisocyanate dissolved in 10 ml of CH2Cl2 were added and the reaction mixture heated to 40° C. for 4 hours. After cooling of the reaction mixture, the precipitate was collected by filtration and washed with CH2Cl2 to yield 0.9 g of the title compound.

reactant | (S)-N-(α-ethylbenzyl)-3-amino-2-phenylquinoline-4-carboxamide | 3.9 mmol, 1.5 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)N | C25H23N3O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | CH3CN | 10 ml | CC#N | C2H3N
reactant | phenylisocyanate | 4.3 mmol, 0.47 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-(α-ethylbenzyl)-3-(3-phenylureido)-2-phenylquinoline-4-carboxamide | 0.9 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)NC(=O)NC1=CC=CC=C1 | C32H28N4O2
